US06197959B1
In analogy to the procedure described in example 8(b), the (3R,4R)-4-[4-(3-hydroxy -propoxy)-phenyl]-3-(quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester was reacted with methanesulfonyl chloride to yield the (3R,4R)-4-[4-(3-methanesulfonyloxy-propoxy)-phenyl]-3-(quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as a colorless solid; MS: 571 (M+H)+.

reactant | (3R,4R)-4-[4-(3-hydroxy -propoxy)-phenyl]-3-(quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCO)OCC1=CC=C2C=CC=NC2=C1 | C29H36N2O5
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | (3R,4R)-4-[4-(3-methanesulfonyloxy-propoxy)-phenyl]-3-(quinolin-7-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOS(=O)(=O)C)OCC1=CC=C2C=CC=NC2=C1 | C30H38N2O7S
